US08168821B2
2-[4-(tert-Butoxycarbonyl)benzyl]-4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]butanoic acid
At room temperature, a solution of 7.42 ml (53.56 mmol) of triethylamine and 1.53 ml (40 mmol) of formic acid in 25 ml of dioxane is added to a solution of 8.58 g (16.2 mmol) of diallyl [4-(tert-butoxycarbonyl)benzyl]{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}malonate, 298 mg (1.14 mmol) of triphenylphosphine and 73 mg (0.33 mmol) of palladium acetate in 75 ml of dioxane. The reaction mixture is then stirred at 100° C. for 2 hours. After complete conversion, the reaction solution is cooled and the solvent is removed under reduced pressure. The residue is then taken up in ethyl acetate and water and acidified with 1 N hydrochloric acid (pH 4-5), and the organic phase is separated off. The aqueous phase is extracted three more times with ethyl acetate, and the organic phases are then combined, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solution is concentrated under reduced pressure. The crude product obtained is purified by flash chromatography on silica gel (700 g; mobile phase: petroleum ether/ethyl acetate 1:1). This gives 4.9 g (74.6% of theory) of a colorless solid.

reactant | triethylamine | 53.56 mmol, 7.42 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 40 mmol, 1.53 ml | C(=O)O | CH2O2
reactant | diallyl [4-(tert-butoxycarbonyl)benzyl]{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}malonate | 16.2 mmol, 8.58 g | C(C)(C)(C)OC(=O)C1=CC=C(CC(C(=O)OCC=C)(C(=O)OCC=C)CCC2(CC2)CC(=O)OCC)C=C1 | C30H40O8
reactant | triphenylphosphine | 1.14 mmol, 298 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.33 mmol, 73 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[4-(tert-Butoxycarbonyl)benzyl]-4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]butanoic acid | C(C)(C)(C)OC(=O)C1=CC=C(CC(C(=O)O)CCC2(CC2)CC(=O)OCC)C=C1 | C23H32O6
